US04480100
[2-[(3-Nitro-2-pyridinyl)amino]phenyl]phenylmethanone hydrochloride
A mixture of 56.0 g (0.28 mole) of 2-aminobenzophenone and 49.6 g (0.31 mole) of 2-chloro-3-nitropyridine was heated in an oil bath with stirring at 150° C. for 45 minutes. After cooling, an 8.7 g portion of the product was dissolved in 45 ml of methylene chloride, hydrogen chloride gas was added for 15 min and 100 ml of hexane was added. After stirring for 20 min, solid was collected and washed twice with 1:3 mixture of methylene chloride to hexanes. After drying in air, 8.2 g (81.6%) product was obtained.

reactant | 2-aminobenzophenone | 0.28 mole, 56.0 g | NC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C13H11NO
reactant | 2-chloro-3-nitropyridine | 0.31 mole, 49.6 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | hydrogen chloride | Cl | ClH
reactant | hexane | 100 ml | CCCCCC | C6H14
solvent | methylene chloride | 45 ml | C(Cl)Cl | CH2Cl2
product | [2-[(3-Nitro-2-pyridinyl)amino]phenyl]phenylmethanone hydrochloride | 8.2 g, 81.6% | Cl.[N+](=O)([O-])C=1C(=NC=CC1)NC1=C(C=CC=C1)C(=O)C1=CC=CC=C1 | InChI=1S/C18H13N3O3.ClH/c22-17(13-7-2-1-3-8-13)14-9-4-5-10-15(14)20-18-16(21(23)24)11-6-12-19-18;/h1-12H,(H,19,20);1H
